US09227971B2
Step 2: Preparation of (3-bromoquinolin-6-yl)methanol
To a mixture of 3-bromoquinoline-6-carboxylic acid (1.32 g, 5.24 mmol) and TEA (876 uL, 6.29 mmol) in THF (30 mL) was added EtOCOCl (599 uL, 6.29 mmol) at 0° C. and stirred for 30 min. Then, a solution of NaBH4 (793 mg, 21.0 mmol) in H2O (6 mL) was added at the same temperature. The resulting reaction mixture was stirred at 0° C. for 30 min before being warmed to it and stirred overnight. THF was removed. The residue was diluted with H2O, acidified with 4 N HCl, then neutralized with NaHCO3, extracted with EtOAc, and purified by a SiO2 column (0-50% EtOAc/Hexanes, Rf=0.35 in 50% EtOAc) to afford the titled compound as a colorless oil (220 mg).

reactant | 3-bromoquinoline-6-carboxylic acid | 5.24 mmol, 1.32 g | BrC=1C=NC2=CC=C(C=C2C1)C(=O)O | C10H6BrNO2
reactant | EtOCOCl | 6.29 mmol, 599 uL | C(C)OC(=O)Cl | C3H5ClO2
reactant | NaBH4 | 21.0 mmol, 793 mg | [BH4-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | H2O | 6 mL | O | H2O
product | (3-bromoquinolin-6-yl)methanol | 220 mg | BrC=1C=NC2=CC=C(C=C2C1)CO | C10H8BrNO
